US05696151
A first reaction mixture of chloroacetaldehyde dimethylacetal (300 g), water (400 mL) and 36% hydrochloric acid (40 mL) was stirred and brought to reflux. When the first reaction mixture became homogenous, it was cooled and added to a stirred solution of ethyl acetoacetate (260 g) and pyridine (500 mL) and left stirring at ambient temperature for 72 hours, to produce a second reaction mixture. The organic layer was then separated from the second reaction mixture and the aqueous layer was diluted with water and then extracted with methylene chloride. The combined organics were washed with 2N hydrochloric acid, followed by removal of the solvent. The residue was treated with a solution of sodium hydroxide (80 g) in water (700 mL) and ethanol (100 mL), to produce a third reaction mixture. After refluxing for 1 hour the third reaction mixture was poured into ice/water and acidified with hydrochloric acid. A cream colored precipitate formed. This precipitate was collected on a filter, washed with water and dried to give 2-methyl-3-furancarboxylic acid, 180 g. 100 g of the 2-methyl-3-furancarboxylic acid was added in portions to thionyl chloride (500 mL) and refluxed for 3 hours. Excess thionyl chloride was then distilled off to produce a residue. The residue was distilled using a water pump, to give 2-methyl-3-furanylcarboxylic chloride, bp. 62° C., 100 g.

reactant | 2-methyl-3-furancarboxylic acid | 100 g | CC=1OC=CC1C(=O)O | C6H6O3
reactant | thionyl chloride | 500 mL | S(=O)(Cl)Cl | Cl2OS
product | 2-methyl-3-furanylcarboxylic chloride | CC=1OC=CC1C(=O)Cl | C6H5ClO2
